*******************************************
**  PNS-NETFILE                          **
**  WARNING: DON'T EDIT THIS FILE        **
*******************************************
S0: ~~ 10 143 59 127 38 - 0
S1: ~~ 10 117 135 101 114 - 0
S2: ~~ 10 148 248 132 227 - 0
S3: ~~ 0 317 103 301 82 - 0
S4: ~~ 0 315 203 299 182 - 0
S5: ~~ 0 330 295 314 274 - 0
S6: ~~ 10 147 349 131 328 - 0
T0: ~~ 100 230 100 211 80 0 e
T1: ~~ 100 229 200 211 178 0 e
T2: ~~ 100 239 299 223 278 0 a
KST: 0 0 0 -1 185 80 0 E
KST: 1 0 0 -1 186 123 0 E
KST: 1 1 0 -1 186 172 0 E
KST: 2 1 0 -1 187 223 0 E
KST: 2 2 0 -1 193 273 0 E
KTS: 3 0 0 1 272 102 0 E
KTS: 4 1 0 1 271 201 0 E
KTS: 5 2 0 1 284 297 0 E
KST: 6 2 0 -1 193 324 0 E
