*******************************************
**  PNS-NETFILE                          **
**  WARNING: DON'T EDIT THIS FILE        **
*******************************************
S0: ~START~ 1 158 63 142 42 - 0
S1: ~FINISH~ 0 222 62 206 41 - 0
S2: ~~ 0 158 202 142 181 - 0
S3: ~X  =X+Y~ 3 158 346 142 325 - 0
S4: ~Y~ 10 222 341 206 320 - 0
T0: ~~ 100 158 130 142 108 0 e
T1: ~~ 100 222 128 206 107 0 e
T2: ~~ 100 158 268 143 247 0 e
KST: 0 0 0 -1 157 97 0 E
KTS: 1 1 0 1 222 95 0 E
KTS: 2 0 0 1 158 165 0 E
KST: 2 1 0 -1 190 165 0 E
KST: 2 2 0 -1 147 251 1 E e 136 234 0
KTS: 2 2 0 1 167 218 1 E e 177 235 0
KTS: 3 2 0 1 158 307 0 E
KST: 4 1 1 -1 221 234 0 E
KST: 4 2 0 -1 189 304 0 E
