*******************************************
**  PNS-NETFILE                          **
**  WARNING: DON'T EDIT THIS FILE        **
*******************************************
S0: ~~ 0 360 489 344 468 - 0
S1: ~Z=Z+X*Y~ 0 441 419 425 398 - 0
S2: ~Y~ 3 280 419 264 398 - 0
S3: ~~ 0 361 345 345 324 - 0
S4: ~~ 0 209 345 193 324 - 0
S5: ~X~ 5 361 207 345 186 - 0
S6: ~FINISH~ 0 361 67 345 46 - 0
S7: ~START~ 1 209 67 193 46 - 0
T0: ~~ 100 360 419 344 399 0 e
T1: ~~ 100 208 419 193 398 0 e
T2: ~~ 100 280 345 263 326 0 e
T3: ~~ 100 209 275 193 254 0 e
T4: ~~ 100 361 276 344 253 0 e
T5: ~~ 100 361 138 343 108 0 e
KTS: 0 0 0 1 361 454 0 E
KST: 0 1 0 -1 208 454 1 E e 208 489 0
KST: 0 4 1 -1 422 275 2 E e 484 276 1 e 484 489 0
KST: 0 5 1 -1 422 137 2 E e 484 138 1 e 484 489 0
KTS: 1 0 0 1 400 419 0 E
KST: 2 0 0 -1 320 419 0 E
KTS: 2 1 0 1 244 419 0 E
KST: 2 2 1 -1 279 383 0 E
KST: 3 0 0 -1 352 402 1 E e 345 384 0
KTS: 3 0 0 1 366 365 1 E e 372 385 0
KST: 3 2 0 -1 320 346 0 E
KTS: 3 4 0 1 360 309 0 E
KST: 4 1 0 -1 215 400 1 E e 222 382 0
KTS: 4 1 0 1 201 363 1 E e 193 382 0
KTS: 4 2 0 1 244 344 0 E
KTS: 4 3 0 1 209 310 0 E
KST: 4 4 0 -1 285 310 0 E
KST: 4 5 0 -1 285 241 0 E
KST: 5 4 0 -1 360 238 0 E
KST: 5 5 1 -1 360 165 0 E
KTS: 6 5 0 1 361 102 0 E
KST: 7 3 0 -1 208 171 0 E
