*******************************************
**  PNS-NETFILE                          **
**  WARNING: DON'T EDIT THIS FILE        **
*******************************************
S0: ~EAT~ 0 261 65 245 44 - 0
S1: ~THINK~ 1 368 66 352 45 - 0
S2: ~EAT~ 0 516 189 500 168 - 0
S3: ~THINK~ 1 518 290 502 269 - 0
S4: ~THINK~ 1 104 181 88 160 - 0
S5: ~EAT~ 0 104 287 88 266 - 0
S6: ~THINK~ 1 263 405 247 384 - 0
S7: ~EAT~ 0 371 407 355 386 - 0
S8: ~FORK~ 1 193 332 177 311 - 0
S9: ~FORK~ 1 433 336 417 315 - 0
S10: ~FORK~ 1 422 130 406 109 - 0
S11: ~FORK~ 1 193 126 177 105 - 0
T0: ~~ 100 65 235 57 214 0 e
T1: ~~ 100 143 234 120 213 0 e
T2: ~~ 100 474 237 458 216 0 e
T3: ~~ 100 558 239 539 216 0 e
T4: ~~ 100 314 28 300 12 0 e
T5: ~~ 100 314 99 298 78 0 e
T6: ~~ 100 317 362 301 341 0 e
T7: ~~ 100 317 443 301 422 0 e
KST: 0 4 0 -1 287 49 0 E
KTS: 0 5 0 1 286 82 0 E
KTS: 1 4 0 1 345 50 0 E
KST: 1 5 0 -1 344 83 0 E
KTS: 2 2 0 1 493 214 0 E
KST: 2 3 0 -1 533 214 0 E
KST: 3 2 0 -1 494 263 0 E
KTS: 3 3 0 1 535 263 0 E
KTS: 4 0 0 1 89 206 0 E
KST: 4 1 0 -1 121 206 0 E
KST: 5 0 0 -1 89 262 0 E
KTS: 5 1 0 1 121 262 0 E
KST: 6 6 0 -1 290 383 0 E
KTS: 6 7 0 1 290 424 0 E
KTS: 7 6 0 1 344 384 0 E
KST: 7 7 0 -1 344 425 0 E
KTS: 8 0 0 1 131 331 1 E e 65 332 0
KST: 8 1 0 -1 164 286 0 E
KST: 8 6 0 -1 255 350 0 E
KTS: 8 7 0 1 195 387 1 E e 193 443 0
KST: 9 2 0 -1 449 288 0 E
KTS: 9 3 0 1 494 333 1 E e 558 336 0
KST: 9 6 0 -1 370 351 0 E
KTS: 9 7 0 1 432 387 1 E e 433 443 0
KST: 10 2 0 -1 447 182 0 E
KTS: 10 3 0 1 492 130 1 E e 558 130 0
KTS: 10 4 0 1 424 79 1 E e 422 28 0
KST: 10 5 0 -1 367 113 0 E
KTS: 11 0 0 1 129 126 1 E e 65 126 0
KST: 11 1 0 -1 168 180 0 E
KTS: 11 4 0 1 193 77 1 E e 193 28 0
KST: 11 5 0 -1 253 112 0 E
