*******************************************
**  PNS-NETFILE                          **
**  WARNING: DON'T EDIT THIS FILE        **
*******************************************
S0: ~Schreiben~ 0 185 107 169 86 - 0
S1: ~Key~ 3 185 172 169 151 - 0
S2: ~Lesen~ 0 186 228 170 207 - 0
S3: ~Ruhen~ 3 185 324 169 303 - 0
T0: ~~ 100 256 107 240 89 0 a
T1: ~~ 100 108 107 92 86 0 a
T2: ~~ 100 107 228 91 207 0 a
T3: ~~ 100 260 228 244 210 0 a
KST: 0 0 0 -1 220 111 0 E
KTS: 0 1 0 1 146 109 0 E
KTS: 1 0 0 3 220 141 0 E
KST: 1 1 0 -3 146 139 0 E
KST: 1 2 0 -1 146 200 0 E
KTS: 1 3 0 1 222 201 0 E
KTS: 2 2 0 1 146 227 0 E
KST: 2 3 0 -1 223 229 0 E
KTS: 3 0 0 1 223 324 5 E e 262 324 4 e 318 309 3 e 365 254 2 e 361 174 1 e 319 126 0
KST: 3 1 0 -1 83 109 4 E e 58 112 3 e 13 172 2 e 25 272 1 e 68 313 0
KST: 3 2 0 -1 92 228 3 E e 78 229 2 e 67 262 1 e 88 291 0
KTS: 3 3 0 1 232 307 3 E e 280 291 2 e 301 273 1 e 295 243 0
