*******************************************
**  PNS-NETFILE                          **
**  WARNING: DON'T EDIT THIS FILE        **
*******************************************
S0: ~~ 8 91 80 75 59 - 0
S1: ~~ 4 93 135 77 114 - 0
S2: ~~ 6 93 197 77 176 - 0
S3: ~~ 2 270 101 254 80 > -1
S4: ~~ 4 271 171 255 150 - 0
T0: ~~ 100 181 103 165 82 0 a
T1: ~~ 100 182 167 166 146 0 a
KST: 0 0 0 -1 136 91 0 E
KST: 1 0 0 -1 137 119 0 E
KST: 1 1 0 -1 137 151 0 E
KST: 2 1 0 -1 137 182 0 E
KTS: 3 0 0 1 225 102 0 E
KTS: 4 1 0 1 226 169 0 E
