*******************************************
**  PNS-NETFILE                          **
**  WARNING: DON'T EDIT THIS FILE        **
*******************************************
S0: ~START~ 1 342 93 326 72 - 0
S1: ~~ 0 342 222 326 201 - 0
S2: ~X~ 10 230 294 214 273 - 0
S3: ~Y~ 3 454 294 438 273 - 0
S4: ~ERG in Y~ 0 230 134 214 113 - 0
S5: ~ERG in X~ 0 454 134 438 113 - 0
T0: ~~ 100 342 159 326 138 0 e
T1: ~~ 100 342 294 328 273 0 e
T2: ~~ 100 454 222 437 200 0 e
T3: ~~ 100 230 222 211 197 0 e
KST: 0 0 0 -1 342 126 0 E
KTS: 1 0 0 1 343 190 0 E
KST: 1 1 0 -1 332 276 1 E e 323 259 0
KTS: 1 1 0 1 352 241 1 E e 362 261 0
KST: 1 2 0 -1 397 221 0 E
KST: 1 3 0 -1 284 220 0 E
KST: 2 1 0 -1 286 293 0 E
KST: 2 3 1 -1 228 256 0 E
KST: 3 1 0 -1 398 294 0 E
KST: 3 2 1 -1 453 257 0 E
KTS: 4 3 0 1 230 178 0 E
KTS: 5 2 0 1 453 178 0 E
