*******************************************
**  PNS-NETFILE                          **
**  WARNING: DON'T EDIT THIS FILE        **
*******************************************
S0: ~START~ 1 342 93 326 72 - 0
S1: ~~ 0 342 222 326 201 - 0
S2: ~X = X-Y~ 10 230 317 214 296 - 0
S3: ~Y~ 3 454 319 438 298 - 0
S4: ~~ 0 344 425 328 404 - 0
S5: ~FINISH~ 0 543 162 527 141 - 0
S6: ~NEGATIVE~ 0 126 316 110 295 - 0
T0: ~~ 100 342 159 326 138 0 e
T1: ~~ 100 342 294 328 273 0 e
T2: ~~ 100 343 352 327 331 0 e
T3: ~~ 100 230 222 211 197 0 e
T4: ~~ 100 454 222 439 204 0 e
T5: ~~ 100 454 425 440 409 0 e
KST: 0 0 0 -1 342 126 0 E
KTS: 1 0 0 1 343 190 0 E
KST: 1 1 0 -1 332 276 1 E e 323 259 0
KTS: 1 1 0 1 352 241 1 E e 362 261 0
KST: 1 3 0 -1 284 220 0 E
KST: 1 4 0 -1 398 223 0 E
KST: 2 1 0 -1 286 293 0 E
KTS: 2 2 0 1 286 323 0 E
KST: 2 3 1 -1 228 256 0 E
KST: 3 1 0 -1 398 294 0 E
KST: 3 2 0 -1 398 323 0 E
KST: 3 4 1 -1 454 259 0 E
KST: 3 5 1 -1 455 374 0 E
KST: 4 2 0 -1 352 371 1 E e 362 391 0
KTS: 4 2 0 1 335 408 1 E e 326 390 0
KTS: 4 3 0 1 261 425 2 E e 178 425 1 e 178 222 0
KST: 4 5 0 -1 400 428 0 E
KTS: 5 4 0 1 498 193 0 E
KTS: 5 5 0 1 543 293 1 E e 543 425 0
KTS: 6 5 0 1 128 401 2 E e 126 487 1 e 454 487 0
